US07550495B2
Step E. N-{2-{[(4,4-difluorocyclohexyl)methyl]amino}-5-[(ethylsulfonyl)amino]phenyl}-2,2-dimethylpropanamide
A solution of t-BuCOCl (7.6 g, 0.063 mol) in DCM (150 mL) was slowly added to a solution of N-(3-amino-4-{[(4,4-difluorocyclohexyl)methyl]amino}phenyl)ethanesulfonamide (22 g, 0.063 mol) and Et3N (9.7 mL, 0.069 mol) in DCM (500 mL) at 0° C. The reaction mixture was stirred for 3 hrs. at 0° C. DCM (300 mL) and water (200 mL) were added. The organic layer was separated and washed with water (3×200 mL), brine and dried over anhydrous Na2SO4. The solvent was removed and the crude product was purified on silica gel by flash chromatography (EtOAc:hexane 1:1) to provide the title product (23.3 g) as beige solid.

reactant | t-BuCOCl | 0.063 mol, 7.6 g | C(C)(C)(C)C(=O)Cl | C5H9ClO
reactant | N-(3-amino-4-{[(4,4-difluorocyclohexyl)methyl]amino}phenyl)ethanesulfonamide | 0.063 mol, 22 g | NC=1C=C(C=CC1NCC1CCC(CC1)(F)F)NS(=O)(=O)CC | C15H23F2N3O2S
reactant | Et3N | 0.069 mol, 9.7 mL | CCN(CC)CC | C6H15N
reactant | water | 200 mL | O | H2O
solvent | DCM | 150 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 500 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 300 mL | C(Cl)Cl | CH2Cl2
product | N-{2-{[(4,4-difluorocyclohexyl)methyl]amino}-5-[(ethylsulfonyl)amino]phenyl}-2,2-dimethylpropanamide | 23.3 g | FC1(CCC(CC1)CNC1=C(C=C(C=C1)NS(=O)(=O)CC)NC(C(C)(C)C)=O)F | C20H31F2N3O3S
